US05318999
Synthesis of Copoly(isobornyl methacrylate-butyl acrylate-isobornylmethacrylate) Triblock Copolymer [iBoMA - BA -iBoMA 10:80:10] [I(BAT)n ] n=2
Into a 355 ml clear flint glass bottle were charged 46 parts of polybutyl acrylate-XDC, [I(BT)n ], prepared according to the method of Example 7, 5 parts of isobornyl methacrylate, and 76.5 parts of ethyl acetate. The solution was purged and irradiated and the polymer isolated and dried as described in Example 7.

reactant | isobornyl methacrylate | CC(=C)C(=O)OC1C[C@H]2CC[C@@]1(C2(C)C)C | C14H22O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | isobornyl methacrylate butyl acrylate isobornylmethacrylate | CC(=C)C(=O)OC1C[C@H]2CC[C@@]1(C2(C)C)C.C(C=C)(=O)OCCCC.CC(=C)C(=O)OC1C[C@H]2CC[C@@]1(C2(C)C)C | InChI=1S/2C14H22O2.C7H12O2/c2*1-9(2)12(15)16-11-8-10-6-7-14(11,5)13(10,3)4;1-3-5-6-9-7(8)4-2/h2*10-11H,1,6-8H2,2-5H3;4H,2-3,5-6H2,1H3/t2*10-,11?,14+;/m11./s1
